US06897225B1
To a solution of 5-chloro-1,3-phenylenediamine (2.00 g) in acetic acid (20 mL) was added 2,5-dimethoxytetrahydrofuran (1.8 mL). After 4 hours at reflux, the reaction mixture was concentrated. The residue was suspended in satd. NaHCO3 and EtOAc. The reaction mixture was filtered and the organic layer was collected, washed with satd. NaHCO3 and brine, dried (Na2SO4), filtered and concentrated. Purification of the residue by chromatography (silica gel: EtOAc/hexane: 1/4) afforded 0.54 g of 3-chloro-5-(l-pyrrolyl) aniline. MS (m/z) 193 (MH+).

reactant | 5-chloro-1,3-phenylenediamine | 2.00 g | ClC=1C=C(C=C(C1)N)N | C6H7ClN2
reactant | 2,5-dimethoxytetrahydrofuran | 1.8 mL | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 3-chloro-5-(l-pyrrolyl) aniline | 0.54 g | ClC=1C=C(N)C=C(C1)N1C=CC=C1 | C10H9ClN2
